US07067517B2
cis/trans-Methyl-phenyl-carbamic acid 4-[(4-tert-butyl-cyclohexanecarbonyl)-amino]-phenyl ester
The title compound (353 mg, 86% yield, white crystals) was prepared from cis/trans-4-tert-butyl-cyclohexanecarboxylic acid (4-hydroxy-phenyl)-amide (275 mg, 1.00 mmol) and 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide (343 mg, 1.00 mmol). HPLC-MS m/z=409 (M+1); Rt=5.28 and 5.42 min.

reactant | trans-4-tert-butyl-cyclohexanecarboxylic acid (4-hydroxy-phenyl)-amide | 1.00 mmol, 275 mg | OC1=CC=C(C=C1)NC(=O)[C@@H]1CC[C@H](CC1)C(C)(C)C | C17H25NO2
reactant | 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide | 1.00 mmol, 343 mg | [I-].C[N+]1=CN(C=C1)C(N(C1=CC=CC=C1)C)=O
product | trans-Methyl-phenyl-carbamic acid 4-[(4-tert-butyl-cyclohexanecarbonyl)-amino]-phenyl ester | 353 mg, 86% yield | C(C)(C)(C)[C@@H]1CC[C@H](CC1)C(=O)NC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C25H32N2O3
